US07361678B2
4-(4-{2-butyl-1-[4-(4-fluoro-3-trifluoromethyl-phenoxy)-phenyl]-1H-imidazol-4-yl}-phenoxy)-1-methyl-piperidine
To a stirred solution of 4-(4-fluoro-3-trifluoromethyl-phenoxy)-aniline (1.64 mmol) in anhydrous DMF (30 mL) DIEA (3 eq) was added, followed by slow addition of the alpha-bromoacetophenone described above (2 eq), according to General Procedure R2. The reaction mixture was stirred under nitrogen at rt until completion, as indicated by TLC and HPLC. The reaction mixture was then diluted with cold H2O and the product was isolated in Et2O. The combined organic layers were washed with brine and dried over sodium sulfate. Evaporation of solvent in vacuuo afforded the desired product. The crude alkylated aniline was purified by chromatography on silica gel (elution with 5–20% EtOAc/Hexane).

reactant | 4-(4-fluoro-3-trifluoromethyl-phenoxy)-aniline | 1.64 mmol | FC1=C(C=C(OC2=CC=C(N)C=C2)C=C1)C(F)(F)F | C13H9F4NO
reactant | DMF | 30 mL, 3 eq | CN(C)C=O | C3H7NO
reactant | alpha-bromoacetophenone | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | H2O | O | H2O
solvent | Et2O | CCOCC | C4H10O
product | 4-(4-{2-butyl-1-[4-(4-fluoro-3-trifluoromethyl-phenoxy)-phenyl]-1H-imidazol-4-yl}-phenoxy)-1-methyl-piperidine | C(CCC)C=1N(C=C(N1)C1=CC=C(OC2CCN(CC2)C)C=C1)C1=CC=C(C=C1)OC1=CC(=C(C=C1)F)C(F)(F)F | C32H33F4N3O2
